US07488822B2
A mixture of 2-amino-5-bromo-N-methoxy-N-methylbenzamide (7.78 g, 30 mmol), 3-chlorophenyl boronic acid (5.63 g, 36 mmol), tetrakis(triphenylphosphine)palladium (0) (1.73 g, 1.5 mmol), and sodium carbonate, (7.63 g, 72 mmol) in a mixture of DME and water (150 mL/30 mL) was degassed to remove the oxygen and heated at 85° C. under nitrogen for 3 hours. The reaction, mixture was cooled to room temperature and treated with brine (30 mL) and ethyl acetate (100 mL). The organic layer was separated and aqueous layer was extracted with ethyl acetate (3×40 mL). The combined organic layers were washed with brine and dried with MgSO4. After removal of solvent, the residue was purified by a flash chromatography (silica gel, hexane:ethyl acetate/1:1) to give 5-(3-chlorophenyl)-N-methoxy-N-methylbenzamide as a brown oil (5 g, 57%). To a solution of this benzamide (5 g, 17.2 mmol) in anhydrous THF was added in a dropwise fashion a solution of methyllithium in ether (1.4M, 28.6 mL, 40 mL) at −78° C. under nitrogen. After stirring for 30 minutes, the reaction mixture was treated with a saturated aqueous ammonium chloride solution (50 mL) at −78° C. Ethyl acetate (100 mL) was added, organic layer was separated, and aqueous layer was extracted with ethyl acetate (3×20 mL). The combined organic layers were washed (brine) and dried (MgSO4). After removal of solvent, the residue was purified by a flash chromatography (silica gel, hexane: ethyl acetate/2:1) to afford 1-(4-amino-3′-chloro-biphenyl-3-yl)-ethanone as a yellow solid (2 g, 47%): mp 89-90° C.; 1H-NMR (CDCl3) δ 7.89 (d, 1H, J=2.0 Hz), 7.51 (m, 2H), 7.25-7.40 (m, 3H), 6.73 (d, 1H, J=8.6 Hz), 6.38 (br, 2H), 2.65 (s, 3H); MS (EI) m/z 268([M+Na]+, 60%); Anal. Calc. For C14H12ClNO: C, 68.44; H, 4.92; N, 5.70. Found: C, 68.40; H, 4.89; N, 5.61.

reactant | 2-amino-5-bromo-N-methoxy-N-methylbenzamide | 30 mmol, 7.78 g | NC1=C(C(=O)N(C)OC)C=C(C=C1)Br | C9H11BrN2O2
reactant | 3-chlorophenyl boronic acid | 36 mmol, 5.63 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 72 mmol, 7.63 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | DME | COCCOC | C4H10O2
solvent | water | 150 mL | O | H2O
solvent | brine | 30 mL | [Cl-].[Na+].O
catalyst | tetrakis(triphenylphosphine)palladium | 1.5 mmol, 1.73 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-chlorophenyl)-N-methoxy-N-methylbenzamide | 5 g, 57% | ClC=1C=C(C=CC1)C=1C=CC=C(C(=O)N(C)OC)C1 | C15H14ClNO2
